US09193719B2
Isovaleronitrile (2.0 g, 24.1 mmol) was dissolved in anhydrous ethanol (48 mL) under an atmosphere of Ar. The solution was cooled to 0° C., saturated with HCl gas, stirred for 6 h, allowed to warm to RT, and stirred for 6 h. The solvent was removed in vacuo to afford ethyl 3-methylbutanimidate hydrochloride (4.0 g, 100%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 12.00 (br s, 1H), 11.09 (br s, 1H), 4.42 (q, J=7.0 Hz, 2H), 2.48-2.47 (m, 2H), 2.02-2.01 (m, 1H), 1.33 (t, J=7.0 Hz, 3H), 0.91 (d, J=6.7 Hz, 6H).

reactant | Isovaleronitrile | 24.1 mmol, 2.0 g | C(CC(C)C)#N | C5H9N
reactant | HCl | Cl | ClH
reactant | ethanol | 48 mL | C(C)O | C2H6O
product | ethyl 3-methylbutanimidate hydrochloride | 4.0 g, 100% | Cl.CC(CC(OCC)=N)C | InChI=1S/C7H15NO.ClH/c1-4-9-7(8)5-6(2)3;/h6,8H,4-5H2,1-3H3;1H
